US03950353
N-Methyl-N'-[2-((2-pyrazinyl)methylthio)ethyl]urea
By the procedure of Example 24, 2-[(2-aminoethyl)-thiomethyl]pyrazine is reacted with methyl isocyanate to give the title compound.

reactant | 2-[(2-aminoethyl)-thiomethyl]pyrazine | NCCSCC1=NC=CN=C1 | C7H11N3S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-((2-pyrazinyl)methylthio)ethyl]urea | CNC(=O)NCCSCC1=NC=CN=C1 | C9H14N4OS
